US04436746
To a suspension of 60% sodium hydride (0.34 g) in dimethylformamide (10 ml), while stirring under nitrogen at 0°-5°, is added dropwise a solution of 2-(1-imidazolyl)-3-methyl-indole (1.50 g) in dimethylformamide (15 ml). Upon complete addition the mixture is stirred at 0°-5° for 1 hr. To the nearly complete solution is added methyl 6-bromohexanoate (1.67 g) dropwise. The mixture is stirred at 0°-5° for 0.5 hr, then for two days at room temperature. The solution is poured into water (100 ml) and extracted with ethyl acetate (3×50 ml), dried (MgSO4), filtered, and concentrated in vacuo to give an amber oil which is stirred with 100 ml of petroleum ether for 15 minutes. The mixture is placed in a separatory funnel and the insoluble amber oil separated and removed. The oil is dried in vacuo to give 1-(5-methoxycarbonylpentyl)-2-(1-imidazolyl)-3-methylindole as an oil; NMR (CDCl3): δ3.60(3H), 3.90(2H).

reactant | sodium hydride | 0.34 g | [H-].[Na+]
reactant | 2-(1-imidazolyl)-3-methyl-indole | 1.50 g | N1(C=NC=C1)C=1NC2=CC=CC=C2C1C | C12H11N3
reactant | methyl 6-bromohexanoate | 1.67 g | BrCCCCCC(=O)OC | C7H13BrO2
reactant | water | 100 ml | O | H2O
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | 1-(5-methoxycarbonylpentyl)-2-(1-imidazolyl)-3-methylindole | COC(=O)CCCCCN1C(=C(C2=CC=CC=C12)C)N1C=NC=C1 | C19H23N3O2
